US04264599
26.5 g of sodium hydride are added in the course of one hour to a mixture of 161 g of 3-methoxy-2-nitropyridine and 144 g of 2,2-dimethyl-5-hydroxymethyl-1,3-dioxolane in 1,000 ml of hexamethylphosphoric acid triamide, with stirring; by means of cooling, the temperature is kept at 0°-10° during the addition. The reaction mixture is then stirred for a further 5 hours with ice-cooling and then for 15 hours at room temperature. The reaction mixture is poured onto ice and extracted with diethyl ether. The organic extract is washed with a concentrated aqueous solution of sodium chloride, dried and evaporated. The residue is dissolved in 1,000 ml of ethanol, 100 ml of 2 N hydrochloric acid are added and the mixture is left to stand for 8 hours. After evaporating off the solvent, the residue is rendered alkaline with a concentrated solution of sodium hydroxide in water and extracted with ethyl acetate. Evaporating off the solvent yields a crude product from which crystalline 3-(3-methoxy-2-pyridyloxy)-1,2-propanediol with a melting point of 62°-65° is obtained on the addition of diethyl ether.

reactant | sodium hydride | 26.5 g | [H-].[Na+]
reactant | 3-methoxy-2-nitropyridine | 161 g | COC=1C(=NC=CC1)[N+](=O)[O-] | C6H6N2O3
reactant | 2,2-dimethyl-5-hydroxymethyl-1,3-dioxolane | 144 g | CC1(OC(CO1)CO)C | C6H12O3
solvent | hexamethylphosphoric acid triamide | 1,000 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 3-(3-methoxy-2-pyridyloxy)-1,2-propanediol | COC=1C(=NC=CC1)OCC(CO)O | C9H13NO4
